US08729102B2
B) 4-{[4-(cyclopropylmethoxy)-2-nitrophenyl]diazenyl}phenol
To a mixture of 4-(cyclopropylmethoxy)-2-nitroaniline (416 mg) and ethanol (2 mL) was added 6M hydrochloric acid (1.5 mL), and ethanol was evaporated under reduced pressure. To the obtained suspension was added a mixture of sodium nitrite (145 mg) and water (1 mL) under ice-cooling, and the mixture was stirred for 30 min. A mixture of phenol (245 mg) and 8M aqueous sodium hydroxide solution (1.2 mL) was added thereto, and the mixture was stirred for 1 hr. To the reaction mixture was added 1M hydrochloric acid, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a dark red solid (187 mg).

reactant | 4-(cyclopropylmethoxy)-2-nitroaniline | 416 mg | C1(CC1)COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C10H12N2O3
reactant | hydrochloric acid | 6M, 1.5 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-{[4-(cyclopropylmethoxy)-2-nitrophenyl]diazenyl}phenol | 187 mg | C1(CC1)COC1=CC(=C(C=C1)N=NC1=CC=C(C=C1)O)[N+](=O)[O-] | C16H15N3O4
